US05300524
5-(3-Pyridyl)-1-pentyn-4-ol (0.776 g, 4.82 mmol) was added to a stirred suspension of 10% palladium on charcoal (0.2 g) in methanol (30 ml). The reaction was stirred at room temperature under a hydrogen atmosphere for 48 h, by which time hydrogen uptake had ceased. The mixture was filtered through celite and evaporated to provide a yellow oil. Column chromatography (flash silica gel, 5% methanol in ethyl acetate) gave 5-(3-pyridyl)-1-pentanol (0.769 g, 97%) as a colourless oil.

reactant | 5-(3-Pyridyl)-1-pentyn-4-ol | 4.82 mmol, 0.776 g | N1=CC(=CC=C1)CC(CC#C)O | C10H11NO
reactant | hydrogen | [H][H] | H2
reactant | methanol | 30 ml | CO | CH4O
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3-pyridyl)-1-pentanol | 0.769 g, 97% | N1=CC(=CC=C1)CCCCCO | C10H15NO
